US04575507
E. 3',4'-Dihydro-3', 4'-epoxy-7'-fluorospiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione
To a slurry of 2.6 g. (0.011 mole) of 7'-fluorospiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione in 50 ml. of chloroform was added 125 ml. of a 5% sodium bicarbonate solution followed by 3.0 g. (0.014 mole) of m-chloroperbenzoic acid. The reaction mixture was allowed to stir at room temperature for 4 hours after which an additional 1.2 g. (0.0055 mole) of m-chloroperbenzoic acid were added. After stirring overnight at room temperature the mixture was poured into 100 ml. of a 5% sodium bicarbonate solution and the mixture extracted (2×100 ml.) with chloroform and then with ethyl acetate (2×100 ml.). The organic extracts were combined, washed with water and a brine solution and dried over magnesium sulfate. Removal of the solvent gave 600 mg. (22% yield) of the desired product.

reactant | 7'-fluorospiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione | 0.011 mole | FC1=CC=C2C=CCC3(C2=C1)NC(NC3=O)=O | C12H9FN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | m-chloroperbenzoic acid | 0.014 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 0.0055 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3',4'-Dihydro-3', 4'-epoxy-7'-fluorospiro[imidazolidine-4,1'(2'H)-naphthalene]2,5-dione | 22% yield | O1C2CC3(C4=CC(=CC=C4C21)F)NC(NC3=O)=O | C12H9FN2O3
